US03972900
Ca 30 g of crude 7-(1'-acetoxyethyl)-2-(2-methyl-1,3-dioxolan-2-yl) benzofuran were dissolved in 200 ml of acetone and 2 ml of a 33% aqueous solution of benzenesulphonic acid were added to the solution obtained. The resulting solution was heated under reflux for 3 hours, then cooled and evaporated to dryness under reduced pressure. The residual oil was dissolved in diethyl ether and the solution washed with water and with brine and then dried over anhydrous sodium sulphate. The sodium sulphate was then filtered off and the filtrate evaporated to dryness under reduced pressure. The product was purified by column chromatography on silica gel followed by crystallization from cyclohexane to give 2-acetyl-7-(1'-acetoxyethyl)benzofuran in the form of a cream crystalline solid of melting point 82°-83°C.

reactant | 7-(1'-acetoxyethyl)-2-(2-methyl-1,3-dioxolan-2-yl) benzofuran | C(C)(=O)OC(C)C1=CC=CC=2C=C(OC21)C2(OCCO2)C | C16H18O5
reactant | benzenesulphonic acid | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-acetyl-7-(1'-acetoxyethyl)benzofuran | C(C)(=O)C=1OC2=C(C1)C=CC=C2C(C)OC(C)=O | C14H14O4
